US04156011
(a) Ethyl (±)-2-[4-(4-chlorophenoxy)-phenoxy]-propionate
20.9 g (0.115 mol) of ethyl 2-bromo-propionate are run over the course of 30 minutes into a hot solution of 23 g (0.1045 mol) of p-(p-chlorophenoxy)-phenol and 2.4 g (0.1045 mol) of sodium in 90 ml of anhydrous ethanol and the mixture is then heated to the reflux temperature for 2 hours. The inorganic salts are removed by filtration and the ethanol is driven off under reduced pressure. After having dissolved the residue in diethyl ether, washed the solution with water, dried the organic phase over dry sodium sulphate and evaporated the solvent, 32.5 g of an orange-coloured oil which is insoluble in water are obtained.

reactant | ethyl 2-bromo-propionate | 0.115 mol, 20.9 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | p-(p-chlorophenoxy)-phenol | 0.1045 mol, 23 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | sodium | 0.1045 mol, 2.4 g | [Na] | Na
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | Ethyl (±)-2-[4-(4-chlorophenoxy)-phenoxy]-propionate | ClC1=CC=C(OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C17H17ClO4
